US08431575B2
To a solution of 5-[3-butyl-6-(piperidin-4-yloxy)-pyridazin-4-yl]-2-cyclohexyloxy-benzoic acid methyl ester dihydrochloride in DCM (6 mL) was added formaldehyde solution in water (37%, 2.26 mmol, 0.168 mL) and 2 drops of acetic acid. Sodium triacetoxyborohydride (3.02 mmol, 674 mg, 95%) was added. The reaction mixture was stirred at room temperature for 1 h and partitioned between ethyl acetate (40 mL) and saturated aq. sodium bicarbonate solution (40 mL). The ethyl acetate layer was separated and dried over sodium sulfate. The crude product was purified by column chromatography on basic alumina using 0-4.5% MeOH in DCM to give 5-[3-butyl-6-(1-methyl-piperidin-4-yloxy)-pyridazin-4-yl]-2-cyclohexyloxy-benzoic acid methyl ester. This was converted to the title compound using 4 N HCl in dioxane (296 mg). LCMS: m/z 483 [M+1] 1H NMR (400 MHz, CD3OD) δ 7.86-7.93 (2H, m), 7.65-7.71 (1H, m), 7.34-7.38 (1H, m), 5.38-5.55 (1H, m), 4.61-4.65 (1H, m), 3.89 and 3.89 (3H, s), 3.11-3.65 (6H, m), 2.94 (3H, s), 1.16-2.57 (18H, m), 0.83 (3H, dt).

reactant | 5-[3-butyl-6-(piperidin-4-yloxy)-pyridazin-4-yl]-2-cyclohexyloxy-benzoic acid methyl ester dihydrochloride | Cl.Cl.COC(C1=C(C=CC(=C1)C1=C(N=NC(=C1)OC1CCNCC1)CCCC)OC1CCCCC1)=O
reactant | formaldehyde | C=O | CH2O
reactant | water | 2.26 mmol, 0.168 mL | O | H2O
reactant | Sodium triacetoxyborohydride | 3.02 mmol, 674 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
product | 5-[3-butyl-6-(1-methyl-piperidin-4-yloxy)-pyridazin-4-yl]-2-cyclohexyloxy-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)C1=C(N=NC(=C1)OC1CCN(CC1)C)CCCC)OC1CCCCC1)=O | C28H39N3O4
